US06890942B2
4-Cyclobutylmethanesulfonylamino-3-hydroxy4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with cyclobutyl-methanesulfonamide as described in the preparation of compound 1 to yield the title compound. LCMS (M+H) calcd for C17H22FN2O6S: 401.1; found: 401.0. 1H NMR (500 MHz, CDCl3) δ: 1.87 (overlapping m, 3), 1.96 (m, 1), 2.21 (m, 2), 2.86 (heptet, 1, J=8), 3.55 (d, 2, J=7), 3.66 (s, 3), 4.79 (s, 2), 6.53 (s, 1), 7.02 (m, 2), 7.29 (m, 2). 13C NMR (125 MHz, CDCl3) δ: 19.20, 28.12, 30.01, 48.31, 58.99, 63.23, 92.56, 115.72, 115.89, 130.28, 130.35, 131.05, 159.18, 160.12, 161.71, 163.67, 170.87.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | cyclobutyl-methanesulfonamide | C1(CCC1)CS(=O)(=O)N | C5H11NO2S
product | 4-Cyclobutylmethanesulfonylamino-3-hydroxy4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)CC2CCC2)O)=O)OC)C=C1 | C17H21FN2O6S
